US06812355B2
The preparation of citalopram and its hydrobromide salt from 5-bromophthalide and the properties of such compounds was first reported in U.S. Pat. No. 4,136,193, which corresponds to German Offenlegungsschrift No. 2,657,013. U.S. Pat. No. 4,136,193 discloses a synthesis of citalopram starting from 5-bromophthalide, which involves the use of two successive Grignard reactions. In a first reaction, a Grignard reagent prepared from p-fluorobromobenzene and magnesium turnings in ether was reacted with 5-bromophthalide to give 2-hydroxymethyl-4-bromo-4′-fluorobenzophenone. The latter was isolated as a crude oil before, in a second reaction, being added to N,N-dimethylaminopropylymagnesium chloride to give (4-bromo-2-(hydroxymethyl)phenyl)-(4′-fluorophenyl)-(3-dimethylaminopropyl)-methanol. The latter was dehydrated with 60 aqueous phosphoric acid to yield 1-(4′-fluorophenyl)-1-(3-dimethylaminopropyl)-5-bromophthalane, which was then refluxed with cupric cyanide in dimethylformamide to give citalopram.

reactant | citalopram | CN(C)CCCC1(C=2C=CC(=CC2CO1)C#N)C=3C=CC(=CC3)F | C20H21FN2O
reactant | 5-bromophthalide | BrC=1C=C2COC(=O)C2=CC1 | C8H5BrO2
reactant | p-fluorobromobenzene | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | magnesium | [Mg] | Mg
solvent | ether | CCOCC | C4H10O
product | 2-hydroxymethyl-4-bromo-4′-fluorobenzophenone | OCC1=C(C(=O)C2=CC=C(C=C2)F)C=CC(=C1)Br | C14H10BrFO2
